US09085570B2
A solution of 4-(5-methyl-4-(p-tolyloxymethyl)oxazol-2-yl)benzoic acid (460 mg, 1.42 mmol, 1.00 equiv), EDCI (320 mg, 1.68 mmol, 1.18 equiv), HOBT (240 mg, 1.78 mmol, 1.25 equiv), pyridin-3-ylmethanamine (180 mg, 1.67 mmol, 1.17 equiv) and triethylamine (440 mg, 4.36 mmol, 3.06 equiv) in N,N-dimethylformamide (6 mL) was stirred overnight at room temperature. The resulting solution was diluted with 20 mL of ice/water. The solid was collected by filtration and washed with 3×10 mL of hexane. The crude product was purified on a silica gel column eluted with chloroform/methanol (50:1-20:1) to give 0.33 g (56%) of 4-(5-methyl-4-(p-tolyloxymethyl)oxazol-2-yl)-N-(pyridin-3-ylmethyl)benzamide as a gray solid. LC-MS: (ES, m/z): 414 [M+H]+. 1HNMR (400 MHz, DMSO-d6, ppm) δ 9.16 (s, 2H), 8.56 (s, 1H), 8.46 (s, 1H), 8.00-7.95 (m, 3H), 7.75 (d, 1H), 7.34 (m, 1H), 6.86-6.81 (m, 2H), 6.68 (d, 1H), 4.50 (d, 2H), 3.78 (s, 2H), 2.50 (s, 3H), 2.14 (s, 3H).

reactant | 4-(5-methyl-4-(p-tolyloxymethyl)oxazol-2-yl)benzoic acid | 1.42 mmol, 460 mg, 1.00 equiv | CC1=C(N=C(O1)C1=CC=C(C(=O)O)C=C1)COC1=CC=C(C=C1)C | C19H17NO4
reactant | EDCI | 1.68 mmol, 320 mg, 1.18 equiv | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 1.78 mmol, 240 mg, 1.25 equiv | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | pyridin-3-ylmethanamine | 1.67 mmol, 180 mg, 1.17 equiv | N1=CC(=CC=C1)CN | C6H8N2
reactant | triethylamine | 4.36 mmol, 440 mg, 3.06 equiv | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | 4-(5-methyl-4-(p-tolyloxymethyl)oxazol-2-yl)-N-(pyridin-3-ylmethyl)benzamide | 0.33 g, 56% | CC1=C(N=C(O1)C1=CC=C(C(=O)NCC=2C=NC=CC2)C=C1)COC1=CC=C(C=C1)C | C25H23N3O3
